US04958026
Under ice cooling, 17.0 g of 2-(3-methoxy-4-nitrophenyl)acetonitrile in 50 ml of tetrahydrofuran is combined with 180 ml of 1-molar borane-tetrahydrofuran complex in tetrahydrofuran, stirred for 16 hours at room temperature, and mixed with water. The mixture is agitated at 0° C. for 0.5 hour, 200 ml of 2N hydrochloric acid is added dropwise, and the mixture is again stirred for 2 hours at 0° C. and for 2 hours at room temperature. A pH of 9.5°-10.5 is set with sodium hydroxide solution, and the mixture is extracted four times with ethyl acetate/butanol 10:1. The product is chromatographed on silica gel with methanol/dichloromethane 1:1, thus obtaining 9.0 g of 2-(3-methoxy-4-nitrophenyl)ethylamine as an oil.

reactant | 2-(3-methoxy-4-nitrophenyl)acetonitrile | 17.0 g | COC=1C=C(C=CC1[N+](=O)[O-])CC#N | C9H8N2O3
reactant | water | O | H2O
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(3-methoxy-4-nitrophenyl)ethylamine | 9.0 g | COC=1C=C(C=CC1[N+](=O)[O-])CCN | C9H12N2O3
